US04659716
3-[2-(3-Chlorophenyl)ethyl]-2-pyridine-carbonitrile
A solution of 3-[2-(3-chlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide (175 g, 0.554 mole), in 525 mL (863 g, 5.63 mole) of phosphorous oxychloride is heated at reflux for 3 hours. Completion of the reaction is determined by thin layer chromatography. Excess phosphorous oxychloride is removed by distillation at reduced pressure and the residue is quenched into a mixture of water and isopropanol. The pH is brought to 5-7 by addition of 50% aqueous sodium hydroxide solution while maintaining the temperature below 30° C. The crystalline slurry of crude product is filtered and washed with water. Crude product is purified by slurrying the wet cake in hot isopropanol followed by cooling at 0°-5° C. The product is filtered, washed with hexane and dried at below 50° C. Yield: 118 g (HPLC purity 95.7%), m.p. 72°-73° C., 89.4% of theory.

reactant | 3-[2-(3-chlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide | 0.554 mole, 175 g | ClC=1C=C(C=CC1)CCC=1C(=NC=CC1)C(=O)NC(C)(C)C | C18H21ClN2O
reactant | phosphorous oxychloride | 5.63 mole, 525 mL, 863 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-[2-(3-Chlorophenyl)ethyl]-2-pyridine-carbonitrile | ClC=1C=C(C=CC1)CCC=1C(=NC=CC1)C#N | C14H11ClN2
